US07223788B2
N-[1-(4-Aminophenyl)-4-hydroxypyrrolidin-3-yl]-N-methylacetamide
trans-N-(4-Hydroxypyrrolidin-3-yl)-N-methylacetamide was reacted with 4-fluoronitrobenzene by method C, and the product was subsequently hydrogenated by method B. This resulted in the product with the molecular weight of 249.32 (C13H19N3O2); MS (ESI): 250 (M+H+).

reactant | trans-N-(4-Hydroxypyrrolidin-3-yl)-N-methylacetamide | O[C@H]1[C@@H](CNC1)N(C(C)=O)C | C7H14N2O2
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | N-[1-(4-Aminophenyl)-4-hydroxypyrrolidin-3-yl]-N-methylacetamide | NC1=CC=C(C=C1)N1CC(C(C1)O)N(C(C)=O)C | C13H19N3O2
